US09169201B2
Step D: 4-{[(4-Benzofuran-2-yl-phenylcarbamoyl)-(4-tert-butyl-phenyl)-methyl]-amino}-benzoic acid
4-{[(4-tert-Butyl-phenyl)-(4-iodo-phenylcarbamoyl)-methyl]-amino}-benzoic acid acid (340 mg, 0.6 mmol) was taken up in 8 mL of DME, 4 mL of ethanol and 2 mL of water. Na2CO3 (254 mg, 2.4 mmol), PdCl2(O-tolyl)2 (61 mg, 0.0078 mmol) and benzo[B]furan-2-boronic acid (194 mg, 1.2 mmol) were then added, flushed with nitrogen and heated to reflux for 1 h. Cooled to RT, EtOAc (20 mL) was added and extracted with water (20 mL). The organic layer was washed again with water (20 mL), dried over sodium sulfate, filtered and the organic layer was removed under reduced pressure to give a white solid (120 mg, 100%). 1H NMR showed the compound to be very clean and sufficient for the following step.

reactant | 4-{[(4-tert-Butyl-phenyl)-(4-iodo-phenylcarbamoyl)-methyl]-amino}-benzoic acid | 0.6 mmol, 340 mg | C(C)(C)(C)C1=CC=C(C=C1)C(C(NC1=CC=C(C=C1)I)=O)NC1=CC=C(C(=O)O)C=C1 | C25H25IN2O3
reactant | ethanol | 4 mL | C(C)O | C2H6O
reactant | Na2CO3 | 2.4 mmol, 254 mg | C(=O)([O-])[O-].[Na+].[Na+]
reactant | benzo[B]furan-2-boronic acid | 1.2 mmol, 194 mg | O1C2=C(C=C1B(O)O)C=CC=C2 | C8H7BO3
solvent | DME | 8 mL | COCCOC | C4H10O2
solvent | water | 2 mL | O | H2O
product | 4-{[(4-Benzofuran-2-yl-phenylcarbamoyl)-(4-tert-butyl-phenyl)-methyl]-amino}-benzoic acid | 120 mg, 100% | O1C(=CC=C2C1=CC=C2)N(C(=O)C(C2=CC=C(C=C2)C(C)(C)C)NC2=CC=C(C(=O)O)C=C2)C2=CC=CC=C2 | C33H30N2O4
